datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1ncc2c(n1)nc(-c1ccccc1)[n-:10]2.O=[N+]([O-])[N-]c1nc[n:21]([H:20])n1>>Nc1ncc2c(n1)nc(-c1ccccc1)[n:10]2[H:20].O=[N+]([O-])[N-]c1nc[n-:21]n1 10=20;20,21=21",
"NCC(O)C[NH2:10].Nc1sc(Br)c[n+:21]1[H:20]>>NCC(O)C[NH2+:10][H:20].Nc1sc(Br)c[n:21]1 10=20;20,21=21",
"CCOCCn1c(CN2CCC[N+:21](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.Oc1ccc(F)cc1C[N:10]1CCOCC1>>CCOCCn1c(CN2CCC[N:21](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.Oc1ccc(F)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C#CC(C)[NH:10]c1ccccc1.O=C(CCl)[O:21][H:20]>>C#CC(C)[NH+:10](c1ccccc1)[H:20].O=C(CCl)[O-:21] 10=20;20,21=21",
"O=C(O)c1ccc[n+]([O:21][H:20])c1.[O-]c1cc2[n:10]c(c1)COCCOCCSCCOCCOC2>>O=C(O)c1ccc[n+]([O-:21])c1.[O-]c1cc2[n+:10]([H:20])c(c1)COCCOCCSCCOCCOC2 10=20;20,21=21",
"CNCC[N+:21](C)(CCN)[H:20].C[NH+](C)CCC[N:10](C)CCC[NH+](C)C>>CNCC[N:21](C)CCN.C[NH+](C)CCC[N+:10](C)(CCC[NH+](C)C)[H:20] 10=20;20,21=21",
"CC[SH+]C(O)[O:21][H:20].c1c[n:10]cc2c1CCCC2>>CC[SH+]C(O)[O-:21].c1c[n+:10]([H:20])cc2c1CCCC2 10=20;20,21=21",
"NS(=O)(=O)c1ccc(C(=O)[O:21][H:20])cc1.O=C(/C=C/c1ccccc1)[O-:10]>>NS(=O)(=O)c1ccc(C(=O)[O-:21])cc1.O=C(/C=C/c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC(C)[C@@]12C[NH2+][C@@H](C(=O)[O:21][H:20])[C@@H]1CC(=O)O2.O=C(c1ccncc1)[N-:10]/N=C/c1ccccc1[O-]>>CC(C)[C@@]12C[NH2+][C@@H](C(=O)[O-:21])[C@@H]1CC(=O)O2.O=C(c1ccncc1)[N:10](/N=C/c1ccccc1[O-])[H:20] 10=20;20,21=21",
"C[NH+](C)CCCNC(=O)/C=N/[O:21][H:20].O=C([O-])CC[S-:10]>>C[NH+](C)CCCNC(=O)/C=N/[O-:21].O=C([O-])CC[S:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c[n+](CCC[NH2:10])ccc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c[n+](CCC[NH2+:10][H:20])ccc2c1 10=20;20,21=21",
"C[C@H]1CC[C@H](C(=O)[O-:10])CC1.Oc1ccc(F)cc1C[N+:21]1([H:20])CCOCC1>>C[C@H]1CC[C@H](C(=O)[O:10][H:20])CC1.Oc1ccc(F)cc1C[N:21]1CCOCC1 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N+:21](C)(C)[H:20].O=S(=O)(c1cccc(Cl)c1)[NH-:10]>>CC[NH+](CC)CCOCC[N:21](C)C.O=S(=O)(c1cccc(Cl)c1)[NH:10][H:20] 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N:10](C)C.Cc1cc(N)cc[n+]1[O:21][H:20]>>CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N+:10](C)(C)[H:20].Cc1cc(N)cc[n+]1[O-:21] 10=20;20,21=21",
"C=C(F)C(=O)[O-:10].[N-]=[N+]=Nc1ncnc2nc[n:21]([H:20])c12>>C=C(F)C(=O)[O:10][H:20].[N-]=[N+]=Nc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20]>>COC(=O)CSC(C)[O:10][H:20].C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cn1cnc2cc([O-:10])ccc21.Oc1ccc(-c2ccc([O:21][H:20])cc2)cc1>>Cn1cnc2cc([O:10][H:20])ccc21.Oc1ccc(-c2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"CCC(=O)SCC[N+:21](C)(C)[H:20].Cc1cc(C)c([O-:10])cc1C>>CCC(=O)SCC[N:21](C)C.Cc1cc(C)c([O:10][H:20])cc1C 10=20;20,21=21",
"COCC[NH2:10].Oc1cccc(C[NH2+:21][H:20])c1>>COCC[NH2+:10][H:20].Oc1cccc(C[NH2:21])c1 10=20;20,21=21",
"ON=C(Cc1ccccc1)[N-:10]O.[O-]c1ccc(CC[NH2+:21][H:20])cc1>>ON=C(Cc1ccccc1)[N:10](O)[H:20].[O-]c1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"CC(C)[NH+:21](c1ccccc1)[H:20].O=[N+]([O-])c1cc(C[N:10]2CCOCC2)c([O-])c2ccccc12>>CC(C)[NH:21]c1ccccc1.O=[N+]([O-])c1cc(C[N+:10]2([H:20])CCOCC2)c([O-])c2ccccc12 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](CCCC(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc(Cl)cc1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20].O[C@H]1CCCCC[C@@H]1[NH2:10]>>Cc1ccc(Cl)cc1C(c1ccccc1)=[N:21]CCC[NH+](C)C.O[C@H]1CCCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"C=CC[N:10]1CCCCC1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n+:21]2[H:20])c1>>C=CC[N+:10]1([H:20])CCCCC1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n:21]2)c1 10=20;20,21=21",
"COc1c(Cl)cc(Cl)c([O:21][H:20])c1C(=O)NC1CC[NH+](C)CC1.Nc1cc[n:10]cc1>>COc1c(Cl)cc(Cl)c([O-:21])c1C(=O)NC1CC[NH+](C)CC1.Nc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"COCC[NH+:21](c1ccc(OC)cc1)[H:20].Cc1ncc(CO)c(CO)c1[O-:10]>>COCC[NH:21]c1ccc(OC)cc1.Cc1ncc(CO)c(CO)c1[O:10][H:20] 10=20;20,21=21",
"CC1=NS(=O)(=O)c2cnccc2[N:21]1[H:20].c1ccc2ncc([O-:10])cc2c1>>CC1=NS(=O)(=O)c2cnccc2[N-:21]1.c1ccc2ncc([O:10][H:20])cc2c1 10=20;20,21=21",
"CC[NH:10]Cc1ccccc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](Cc1ccccc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:21][H:20])CC1.C[N+](C)(c1ccccc1)[O-:10]>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:21])CC1.C[N+](C)(c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)Nc1cc(C)cc(C)c1)[H:20].C[N:10](C)C>>CC[N:21](CC)CC(=O)Nc1cc(C)cc(C)c1.C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)c1cccc(N)c1)[H:20].Cc1nnc([N-:10]S(=O)(=O)c2ccc(N)cc2)s1>>CC(C)[NH:21]CC(O)c1cccc(N)c1.Cc1nnc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])s1 10=20;20,21=21",
